US07482356B2
Preparation of 2-(2-chlorobenzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (8):
To a cold 0° C. solution of 2-(2-chlorobenzyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 7, (460 mg, 1.23 mmol)) in THF/MeOH (20 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (3.0 g, 4.9 mmol) in H2O (15 mL). After stirring the reaction for 1.5 hours at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is extracted three times with EtOAc and the combined organic layers are washed with brine, dried (MgSO4), filtered, and concentrated in vacuo to afford 316 mg of the desired product which is used without further purification.

reactant | 2-(2-chlorobenzyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)SC)C=CC=C1 | C18H17ClN4OS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF MeOH | 20 mL | C1CCOC1.CO
solvent | H2O | 15 mL | O | H2O
product | 2-(2-chlorobenzyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 316 mg | ClC1=C(CC2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C18H17ClN4O3S
